US05639748
A solution of 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-propanol (0.8 g, 3 mmol) in methylene chloride (30 ml) was stirred at 5° C. and treated with thionyl chloride (40 ml). The mixture was stirred for 10 minutes at 5° C., 15 minutes at 25° C., 3 hours at 55° C. and 16 hours at 25° C. The mixture was concentrated to give 0.96 g of 6-chloro-9-(3-chloropropyl)-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine hydrochloride.

reactant | 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-propanol | 3 mmol, 0.8 g | ClC1=CC=C(C2=C1CCN(CC2)C)CCCO | C14H20ClNO
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-9-(3-chloropropyl)-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine hydrochloride | 0.96 g | Cl.ClC1=CC=C(C=2CCN(CCC21)C)CCCCl | InChI=1S/C14H19Cl2N.ClH/c1-17-9-6-12-11(3-2-8-15)4-5-14(16)13(12)7-10-17;/h4-5H,2-3,6-10H2,1H3;1H
